US08252781B2
Preparation of 2-(bicyclo[2.2.1]heptan-2-yl)-1-(2,3-dichlorophenyl)-4,4-dimethyl-1,2-diazetidin-3-one
2-(Bicyclo[2.2.1]heptan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one and 1-bromo-2,3-dichlorobenzene were used for a similar reaction and treatment as Example 181, and the title compound was obtained as a pale yellow crystalline powder.

reactant | 2-(Bicyclo[2.2.1]heptan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one | C12C(CC(CC1)C2)N2NC(C2=O)(C)C | C11H18N2O
reactant | 1-bromo-2,3-dichlorobenzene | BrC1=C(C(=CC=C1)Cl)Cl | C6H3BrCl2
product | 2-(bicyclo[2.2.1]heptan-2-yl)-1-(2,3-dichlorophenyl)-4,4-dimethyl-1,2-diazetidin-3-one | C12C(CC(CC1)C2)N2N(C(C2=O)(C)C)C2=C(C(=CC=C2)Cl)Cl | C17H20Cl2N2O
